US06890935B2
(S)-N-(tert-Butoxycarbonyl)-2-(2-(3-pyridyl)ethynyl)pyrrolidine
Triethylamine (10 mL) was degassed by bubbling argon over a period of 30 min. (S)-N-(tert-butoxycarbonyl)-2-ethynylpyrrolidine (1.00 g, 5.12 mmol), tetrakis(triphenylphosphine)palladium (0.296 g, 0.256 mmol), palladium(II) acetate (0.0575 g, 0.256 mmol), copper (I) iodide (16.2 mg, 0.085 mmol) and 5-bromopyridine (2.43 g, 15.4 mmol) were added. The mixture was heated at 60° C. for 24 h, then cooled to room temperature and concentrated by rotary evaporation. The residue was dissolved in chloroform (50 mL) and the organic phase washed sequentially with water (25 mL), saturated aqueous NaHCO3 solution (3×20 mL) and water (25 mL). The solution was then dried (MgSO4), filtered and concentrated by rotary evaporation. The crude product was purified by column chromatography on silica gel, eluting with ethyl acetate/hexane (1/1, v/v). Selected fractions containing the product were concentrated via rotary evaporation to give 1.00 g (71%) of a yellow oil.

reactant | (S)-N-(tert-butoxycarbonyl)-2-ethynylpyrrolidine | 5.12 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C#C | C11H17NO2
reactant | 5-bromopyridine | 15.4 mmol, 2.43 g | BrC=1C=CC=NC1 | C5H4BrN
catalyst | tetrakis(triphenylphosphine)palladium | 0.256 mmol, 0.296 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | palladium(II) acetate | 0.256 mmol, 0.0575 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper (I) iodide | 0.085 mmol, 16.2 mg | [Cu]I
product | (S)-N-(tert-Butoxycarbonyl)-2-(2-(3-pyridyl)ethynyl)pyrrolidine | 1.00 g, 71% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C#CC=1C=NC=CC1 | C16H20N2O2
